US07399767B2
4-Bromomethyl-3-(2,4-dimethoxy-pyrimidin-5-yl)-7-methoxy-chromen-2-one
To a solution of 3-(2,4-dimethoxy-pyrimidin-5-yl)-7-methoxy-4-methyl-chromen-2-one (210 mg, 0.64 mmoL) in anhydrous THF (5 mL) at −78° C. was added LiHMDS (1.0 M, 1.28 mmoL, 1.28 mL) dropwise. The resulting reddish solution was stirred at −78° C. for 20 min. To this solution was added NBS (114 mg, 0.64 mmoL) in THF (2 mL) slowly. The reaction was stirred for 2 hours at −78° C. and then quenched with sat. NaHCO3, warmed to room temperature. THF was removed in vacuo and the residue was partitioned between CH2Cl2 and water. The aqueous phase was extracted 3× with CH2Cl2. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to afford a yellow solid, which was then purified by silica gel column chromatography using hexanes:ethyl acetate (4:1 to 2:1) to afford the title product as a white solid.

reactant | 3-(2,4-dimethoxy-pyrimidin-5-yl)-7-methoxy-4-methyl-chromen-2-one | 210 mg | COC1=NC=C(C(=N1)OC)C=1C(OC2=CC(=CC=C2C1C)OC)=O | C17H16N2O5
reactant | LiHMDS | 1.0 M, 1.28 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | NBS | 114 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-Bromomethyl-3-(2,4-dimethoxy-pyrimidin-5-yl)-7-methoxy-chromen-2-one | BrCC1=C(C(OC2=CC(=CC=C12)OC)=O)C=1C(=NC(=NC1)OC)OC | C17H15BrN2O5
